US09212187B2
Synthesis of 1-methyl-6-{5-[(2-methylbenzyl)-(2-pyridin-3-ylethyl)amino]pentyloxy}-1H-quinolin-2-one dihydrochloride
Potassium carbonate(360 mg) and (2-methylbenzyl)-(2-pyridin-3-ylethyl)amine(591 mg) were added to a DMF solution (6.5 ml) of 6-(5-bromopentyloxy)-1-methyl-1H-quinolin-2-one(650 mg). The mixture was stirred at 60° C. for 8 hours. Ice water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was washed with water and then saturated saline, dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane: ethyl acetate: methanol: aqueous ammonia=70:20:10:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(1.0 ml) was added to an ethyl acetate solution(20 ml) of the residue, which was stirred at room temperature. The liquid was condensed to dryness under reduced pressure to give the title compound(270 mg) as a pale yellow amorphous solid.

reactant | Potassium carbonate | 360 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2-methylbenzyl)-(2-pyridin-3-ylethyl)amine | 591 mg | CC1=C(CNCCC=2C=NC=CC2)C=CC=C1 | C15H18N2
reactant | 6-(5-bromopentyloxy)-1-methyl-1H-quinolin-2-one | 650 mg | BrCCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C15H18BrNO2
reactant | hydrogen chloride ethyl acetate | 1.0 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 6.5 ml | CN(C)C=O | C3H7NO
product | 1-methyl-6-{5-[(2-methylbenzyl)-(2-pyridin-3-ylethyl)amino]pentyloxy}-1H-quinolin-2-one dihydrochloride | 270 mg | Cl.Cl.CN1C(C=CC2=CC(=CC=C12)OCCCCCN(CCC=1C=NC=CC1)CC1=C(C=CC=C1)C)=O | InChI=1S/C30H35N3O2.2ClH/c1-24-9-4-5-11-27(24)23-33(19-16-25-10-8-17-31-22-25)18-6-3-7-20-35-28-13-14-29-26(21-28)12-15-30(34)32(29)2;;/h4-5,8-15,17,21-22H,3,6-7,16,18-20,23H2,1-2H3;2*1H
